US08044213B2
To a solution 0.18 g (0.41 mmole) of 2-(5-formyl-2-nitro-phenylamino)-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.17b) and 0.18 g (0.83 mmole) of sodium triacetoxy-borohydride in 15 mL of dichloromethane was added 0.069 mL (0.62 mmole) of 1-methylpiperazine. The mixture was stirred at room temperature overnight. The mixture was then diluted with dichloromethane, washed with saturated sodium bicarbonate, brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with dichloromethane-methanol (gradient 100:0-75:25) gave 0.16 g of 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.17c) as a yellow solid.

reactant | 2-(5-formyl-2-nitro-phenylamino)-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.41 mmole, 0.18 g | C(=O)C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C18H11F3N4O4S
reactant | sodium triacetoxy-borohydride | 0.83 mmole, 0.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-methylpiperazine | 0.62 mmole, 0.069 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.16 g | CN1CCN(CC1)CC=1C=CC(=C(C1)NC=1SC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C23H23F3N6O3S
